US04997847
(b) 3,3-Dimethyl-5-(benzenesulphonamido)pentanoic Acid
A mixture of ethyl 3,3-dimethyl-5-(benzenesulphonamido)pentanoate (4.4 g, 14.1 mmol), methanol (30 ml) and 2N NaOH (20 ml) was stirred for 5 hours at 60° C. The methanol was then evaporated, the aqueous phase was acidified (diluted HCl) and the oily acid was extracted with methylene chloride. After drying over sodium sulphate the solvent was removed. Yield: 4.0 g (100 % of theory), oily product, nD20 =1.5250.

reactant | ethyl 3,3-dimethyl-5-(benzenesulphonamido)pentanoate | 14.1 mmol, 4.4 g | CC(CC(=O)OCC)(CCNS(=O)(=O)C1=CC=CC=C1)C | C15H23NO4S
reactant | NaOH | 2N, 20 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 3,3-Dimethyl-5-(benzenesulphonamido)pentanoic Acid | CC(CC(=O)O)(CCNS(=O)(=O)C1=CC=CC=C1)C | C13H19NO4S
